US07417049B2
(2′R)-5′-(Benzofuran-2-yl)spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine]
Prepared by a method analogous to that described for the preparation of (2′R)-5′-(furan-3-yl)spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] in Preparation 1 from (2′R)-5′-bromospiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] and benzofuran-2-boronic acid. The compound was purified by flash chromatography using a gradient of ammoniated methanol in chloroform and obtained as a pale solid; m/z 333 (100%, MH+).

reactant | (2′R)-5′-(furan-3-yl)spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] | O1C=C(C=C1)C=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2 | C17H18N2O2
reactant | (2′R)-5′-bromospiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] | BrC=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2 | C13H15BrN2O
reactant | benzofuran-2-boronic acid | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
product | (2′R)-5′-(Benzofuran-2-yl)spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] | O1C(=CC2=C1C=CC=C2)C=2C=C1C(=NC2)O[C@@]2(C1)CN1CCC2CC1 | C21H20N2O2
